US06552061B1
Nine grams of glycine were dissolved in 60 ml of a 2N sodium hydroxide aqueous solution. To the solution were then added 12 ml of salicylaldehyde and 1.3 g of sodium boron hydride in this order. After the mixture was stirred for 1 hour, 12 ml of salicylaldehyde and 1.3 g of sodium boron hydride were added thereto again. After the resulting mixture was stirred at room temperature for 1 hour, the insoluble matter was separated through filtration, and the filtrate was extracted with diethyl ether. The extract was adjusted to a pH of 4 with hydrochloric acid to obtain 17 g of N-(2 -hydroxybenzyl) glycine. Various N-(2-hydroxybenzyl) amino acids were obtained in the same manner.

reactant | glycine | Nine grams | NCC(=O)O | C2H5NO2
reactant | salicylaldehyde | 12 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium boron hydride | 1.3 g | B.[Na]
reactant | salicylaldehyde | 12 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium boron hydride | 1.3 g | B.[Na]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | N-(2 -hydroxybenzyl) glycine | 17 g | OC1=C(CNCC(=O)O)C=CC=C1 | C9H11NO3
